* C:\Users\danie\Desktop\classDAmplifier\classD.asc
XU1 N004 N004 N002 VDD 0 CD4093B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU2 N002 N001 VDD 0 CD40106B VDD=5 SPEED=1.0 TRIPDT=5e-9
Vin N007 0 SINE(0 1 100)
R1 N007 N009 1
R2 N009 0 1k
C1 N008 N009 10µ
Ra N003 N008 120k
R4 N003 Vcc 500k
XU3 N003 N003 N004 VDD 0 CD4093B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU4 N002 N001 VDD 0 CD40106B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU5 N002 N001 VDD 0 CD40106B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU6 N002 N001 VDD 0 CD40106B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU7 N002 N001 VDD 0 CD40106B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU8 N002 N001 VDD 0 CD40106B VDD=5 SPEED=1.0 TRIPDT=5e-9
Q1 Vcc N001 N005 0 Qbd139
Q2 N005 N001 0 0 Qbd140
Rb N005 N003 120k
C2 N003 0 100p
Vin1 Vcc 0 15
C3 N006 N005 100µ
R3 N006 0 8
.model NPN NPN
.model PNP PNP
.lib C:\Users\danie\Documents\LTspiceXVII\lib\cmp\standard.bjt
.include CD4000.lib
.include BD139.LIB
.include BD140.LIB
.tran 1
.backanno
.end
